US06509467B1
Preparation of N-Methyl-1-phenyl-6,7-dimethoxy-3,4-dihydroisoquinolinium iodide
To a stirred solution of 1-phenyl-6,7-dimethoxy-3,4-dihydroisoquinoline in acetone was added methyl iodide and the reaction mixture was stirred at room temperature for 16 hours. A pale yellow precipitate was formed. The by-products and unreacted methyl iodide were removed in vacuo to afford the desired compound in 93% yield.

reactant | 1-phenyl-6,7-dimethoxy-3,4-dihydroisoquinoline | C1(=CC=CC=C1)C1=NCCC2=CC(=C(C=C12)OC)OC | C17H17NO2
reactant | methyl iodide | CI | CH3I
solvent | acetone | CC(=O)C | C3H6O
product | N-Methyl-1-phenyl-6,7-dimethoxy-3,4-dihydroisoquinolinium iodide | 93% yield | [I-].C[N+]1=C(C2=CC(=C(C=C2CC1)OC)OC)C1=CC=CC=C1 | InChI=1S/C18H20NO2.HI/c1-19-10-9-14-11-16(20-2)17(21-3)12-15(14)18(19)13-7-5-4-6-8-13;/h4-8,11-12H,9-10H2,1-3H3;1H/q+1;/p-1
